US07601843B2
Methyl 3-hydroxymethyltricyclo[3.3.1.13,7]decane-1-carboxylate
After dissolving dimethyl 1,3-adamantanedicarboxylate (1.00 g, 3.96 mmol) in tetrahydrofuran (5 mL), diisobutylaluminum hydride (0.95 M; 5.0 mL, 4.75 mmol) was added dropwise while cooling on ice, and then the mixture was further stirred for 3 hours while cooling on ice. After the reaction, water (0.2 mL) and then aqueous 15% NaOH (0.2 mL) were added dropwise at room temperature, and the mixture was stirred for 30 minutes. Next, water (0.6 mL) and anhydrous magnesium sulfate were added and stirred therewith, and the insoluble portion was filtered out. The solvent was distilled off under reduced pressure, and the obtained residue was subjected to chromatography (50 g Merck Art. 9385, hexane:ethyl acetate=3:2) to obtain the title compound as a colorless oil (0.1648 g, 0.735 mmole) (19% yield).

reactant | dimethyl 1,3-adamantanedicarboxylate | 3.96 mmol, 1.00 g | C12(CC3(CC(CC(C1)C3)C2)C(=O)OC)C(=O)OC | C14H20O4
reactant | diisobutylaluminum hydride | 4.75 mmol, 0.95 M, 5.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | NaOH | 0.2 mL | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 0.6 mL | O | H2O
solvent | water | 0.2 mL | O | H2O
product | Methyl 3-hydroxymethyltricyclo[3.3.1.13,7]decane-1-carboxylate | 0.735 mmole, 0.1648 g, 19% yield | OCC12CC3(CC(CC(C1)C3)C2)C(=O)OC | C13H20O3
